US06274286B1
tris[2-(2-methoxyethoxy)methoxyethyl]amine
To a suspension of 135.3 grams of potassium t-butoxide in 900 ml of tetrahydrofuran, 50.0 grams of triethanolamine in 100 ml of tetrahydrofuran was added dropwise over 10 minutes while stirring under ice cooling. After 40 minutes of stirring, 150.4 grams of chloromethyl 2-methoxyethyl ether was added dropwise over 30 minutes while continuing stirring under ice cooling. After 30 minutes of stirring, 37.6 grams of potassium t-butoxide was added while continuing stirring under ice cooling. After 20 minutes of stirring, 41.8 grams of chloromethyl (2-methoxyethoxy)methyl ether was added dropwise over 10 minutes while continuing stirring under ice cooling. After 40 minutes of stirring, 250 ml of methanol was added. After 30 minutes of stirring, the reaction solution was filtered with a sufficient amount of Celite, and the residue was washed with ether. The filtrate was concentrated under vacuum, and the resulting oily matter was dissolved in 2,000 ml of methylene chloride. Using a separatory flask, the solution was washed three times with 200 ml of water. The organic phase was concentrated in vacuum. On analysis by 1H-NMR, the resulting oily matter was found to be tris[2-(2-methoxyethoxy)-methoxyethyl]amine, designated Amine 2. Amount 103.9 grams, yield 70.0%.

reactant | potassium t-butoxide | 135.3 grams | CC(C)([O-])C.[K+]
reactant | triethanolamine | 50.0 grams | N(CCO)(CCO)CCO | C6H15NO3
reactant | chloromethyl 2-methoxyethyl ether | 150.4 grams | COCCOCCl | C4H9ClO2
reactant | potassium t-butoxide | 37.6 grams | CC(C)([O-])C.[K+]
reactant | chloromethyl (2-methoxyethoxy)methyl ether | 41.8 grams | COCCOCOCCl | C5H11ClO3
reactant | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methanol | 250 ml | CO | CH4O
product | tris[2-(2-methoxyethoxy)methoxyethyl]amine | yield 70.0% | COCCOCOCCN(CCOCOCCOC)CCOCOCCOC | C18H39NO9
